US07312233B2
6-Amino-2H-benzo[b][1,4]oxazin-3(4H)-one
Pd/C (10%) was added to a suspension of 6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one (1.5 g) in MeOH (20 mL) and the reaction mixture was stirred under an atmosphere of hydrogen overnight. The mixture was filtered through celite and the filtrate was concentrated under vacuum to give the product (0.705 g, 56%) as a beige solid.

reactant | 6-nitro-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.5 g | [N+](=O)([O-])C1=CC2=C(OCC(N2)=O)C=C1 | C8H6N2O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-Amino-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.705 g, 56% | NC1=CC2=C(OCC(N2)=O)C=C1 | C8H8N2O2
